US06833378B2
4-(1-Ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-pyridin-3-yloxy)-nicotinonitrile
The title compound was prepared by heating 2-chloro-4-(1-ethyl-propylamino)-6-methyl-nicotinonitrile with 2,4,6-trimethyl-3-hydroxy-pyridine in NMP.

reactant | 2-chloro-4-(1-ethyl-propylamino)-6-methyl-nicotinonitrile | ClC1=C(C#N)C(=CC(=N1)C)NC(CC)CC | C12H16ClN3
reactant | 2,4,6-trimethyl-3-hydroxy-pyridine | CC1=NC(=CC(=C1O)C)C | C8H11NO
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 4-(1-Ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-pyridin-3-yloxy)-nicotinonitrile | C(C)C(CC)NC1=CC(=NC(=C1C#N)OC=1C(=NC(=CC1C)C)C)C | C20H26N4O
